US04082535
2,4-Di-cyclopropylamino-6-chloropyrimidine
A solution of 151.5 g (1 mol) of 2,4,6-trichloropyrimidine in 300 ml of acetonitrile is taken and 285 g (5 mols) of cyclopropylamine are added dropwise at 20°-30°, whilst cooling. The solution is warmed to 40° for 5 hours and to 70° for about 12 hours. The suspension is concentrated to dryness on a rotary evaporator and the residue is thoroughly stirred with 1,500 ml of methylene chloride and 1,000 ml of water for 30 minutes. The undissolved constituent is filtered off on a cloth filter. It consists of practically pure 4,6-di-cyclopropylamino-2-chloropyrimidine. The phases of the filtrate are separated and the organic phase is again extracted with water, dried and concentrated to give an oil. This is distilled under a high vacuum (boiling point 149°-51°/0.1 mm) and is then recrystallised from methanol, with addition of water. The colourless product has a melting point of 58°-60°.

reactant | 2,4,6-trichloropyrimidine | 1 mol, 151.5 g | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | cyclopropylamine | 5 mols, 285 g | C1(CC1)N | C3H7N
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 2,4-Di-cyclopropylamino-6-chloropyrimidine | C1(CC1)NC1=NC(=CC(=N1)NC1CC1)Cl | C10H13ClN4
